US05236899
Step 5: Boc-N-Methyl-L-Leucyl-L-Valyl-N-Methyl-L-Alanyl-L-Alanine Benzyl Ester
A solution of 13.17 g (0.0537 mole) of Boc-N-methyl-L-leucine in 370 ml of dry dichloromethane was stirred and cooled at 0° C. as one-half of 13.15 g. (0.130 mole) of dry triethylamine was added, followed by 15.05 g (0.0591 mole) of BOP-Cl. This was stirred at 0° C. for 3 hours. The remainder of the triethylamine was added, followed by a solution of 13 g (0.0358 mole) of L-valyl-N-methyl-L-alanyl-L-alanine benzyl ester in 50 ml of dry dichloromethane. The reaction was stirred at ice temperature for 22 hours, then washed with 125 ml of a 10% solution of potassium bisulfate. The organic layer was further washed with 2×100 ml of saturated sodium bicarbonate solution, dried over magnesium sulfate, concentrated to a small volume, and chromatographed on silica gel eluting with 1:1 ether/hexane gradually increasing the ether to 2:1. The product weighed 15.8 g (75% of theory), and the FAB m.s. showed a molecular ion peak at 591.

reactant | Boc-N-methyl-L-leucine | 0.0537 mole, 13.17 g | C(=O)(OC(C)(C)C)N([C@@H](CC(C)C)C(=O)O)C | C12H23NO4
reactant | triethylamine | 0.130 mole | C(C)N(CC)CC | C6H15N
reactant | BOP-Cl | 0.0591 mole, 15.05 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | L-valyl-N-methyl-L-alanyl-L-alanine benzyl ester | 0.0358 mole, 13 g | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N(C)C([C@@H](N)C(C)C)=O)C)=O)C)=O | C19H29N3O4
solvent | dichloromethane | 370 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Boc-N-Methyl-L-Leucyl-L-Valyl-N-Methyl-L-Alanyl-L-Alanine Benzyl Ester | C(C1=CC=CC=C1)OC([C@@H](NC([C@@H](N(C)C([C@@H](NC([C@@H](N(C)C(=O)OC(C)(C)C)CC(C)C)=O)C(C)C)=O)C)=O)C)=O | C31H50N4O7
